US04051254
3,5-Dimethyl-4-(methoxyacetamido)phenyl N-methylcarbamate
3,5-Dimethyl-4-methoxyacetamidophenol (0.8g., 0.0038 mole, m.p. 169°-73° C., prepared by reaction of methoxyacetyl chloride with 3,5-dimethyl-4-aminophenol) was reacted with methyl isocyanate (0.245g., 0.004 mole) in benzeneacetonitrile using a few drops of triethylamine as a catalyst. After stirring the initially clear reaction solution for about two days, the precipitated product was filtered (0.6g., m.p. 179.5°-82° C.).

reactant | 3,5-Dimethyl-4-methoxyacetamidophenol | 0.0038 mole, 0.8g | CC=1C=C(C=C(C1NC(COC)=O)C)O | C11H15NO3
catalyst | methyl isocyanate | 0.004 mole, 0.245g | CN=C=O | C2H3NO
catalyst | benzeneacetonitrile | a few drops | C1(=CC=CC=C1)CC#N | C8H7N
catalyst | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,5-Dimethyl-4-(methoxyacetamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C(=C1)C)NC(COC)=O)C)=O | C13H18N2O4
